US06093818
After 0.281 g of 3, 3, 3-trifluoro-2-oxopropanal 1-(4-chlorophenylhydrazone) was dissolved in 5 mL of pyridine, 0.304 g of ethyl cyanoacetate was added to the pyridine solution, which was followed by stirring for 5 hours at 110° C. After cooling to room temperature, the reaction mixture was poured into 3N-hydrochloric acid and extracted with diethyl ether. After the organic layer was washed with aqueous saturated sodium bicarbonate and concentrated, the residue was subjected to silica gel column chromatography (eluent: ethyl acetate/hexane =1/9), and furthermore recrystallized from a solvent mixture (toluene/hexane =1/3) to afford 0.234 g of 2-(4-chlorophenyl)-4-cyano-5-trifluoromethylpyridazin-3-one (The present compound 1-15). 1H-NMR (300 MHz, CDCl3)δ(ppm): 7.49(2H, d, J=8.8 Hz), 7.61 (2H, d, J=8.8 Hz), 8.19 (1H,s)

reactant | 3, 3, 3-trifluoro-2-oxopropanal 1-(4-chlorophenylhydrazone) | 0.281 g | ClC1=CC=C(C=C1)NN=CC(C(F)(F)F)=O | C9H6ClF3N2O
reactant | ethyl cyanoacetate | 0.304 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-chlorophenyl)-4-cyano-5-trifluoromethylpyridazin-3-one | 0.234 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)C#N)C(F)(F)F | C12H5ClF3N3O
